US07723336B2
6-((trans-4-aminocyclohexyl)oxy)-8-anilinoimidazo[1,2-b]pyridazine-3-carbonitrile
A mixture of 6-chloro-3-cyano-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (20 mg, 0.05 mmol) from 1b, tert-butyl(trans)-4-hydroxycyclohexylcarbamate (22 mg, 0.1 mmol), palladium(II) acetate (1.1 mg, 0.005 mmol), 1,2,3,4,5-Pentaphenyl-1′-(di-tert-butylphosphino)ferrocene (7.5, 0.01 mmol) and cesium carbonate (100 mg) was suspended in anhydrous dioxane (1 mL) in a Teflon lined septum capped vial. The vessel was purged with argon and heated at 105° C. for 48 h. LCMS shows that product (m/z, M+1, 569.4) is present (˜25% conversion) along with starting materials. The reaction is cooled and filtered thru a plug of celite and the celite pad rinsed with ˜5 ml of ethyl acetate. The solvents are removed in vacuo and the resulting oil suspended in 1 mL of TFA and heated at 50° C. of 2 h. The reaction showed complete removal of the p-methoxybenzyl protecting group. TFA is removed under a stream of air and the resulting mixture taken up in MeOH (2 mL) and purified by preparative HPLC to yield 2.2 mg of the titled compound as a TFA salt. MS m/e 349 (M+1); 1H NMR (MeOH, δ) 8.1 (1H, s), 7.48 (2H, t, J=8 Hz), 7.39 (2H, d, J=8 Hz), 7.27 (1H, t, J=8 Hz), 6.21 (1H, s), 5.00 1H, m), 3.21 (1H, m), 2.38 (2H, m), 2.15, 2H, m), 1.62 (4H, m).

reactant | 6-chloro-3-cyano-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.05 mmol, 20 mg | ClC=1C=C(C=2N(N1)C(=CN2)C#N)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H16ClN5O
reactant | tert-butyl(trans)-4-hydroxycyclohexylcarbamate | 0.1 mmol, 22 mg | O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | cesium carbonate | 100 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.005 mmol, 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,2,3,4,5-Pentaphenyl-1′-(di-tert-butylphosphino)ferrocene | 0.01 mmol | C1(=CC=CC=C1)[C-]1C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[Fe+2]
product | 6-((trans-4-aminocyclohexyl)oxy)-8-anilinoimidazo[1,2-b]pyridazine-3-carbonitrile | 2.2 mg | N[C@@H]1CC[C@H](CC1)OC=1C=C(C=2N(N1)C(=CN2)C#N)NC2=CC=CC=C2 | C19H20N6O
